US06358980B1
To a stirred solution of ethyl nipecotate (5.1 g, 33 mmol) in CH2Cl2 (75 ml) and triethylamine (3.7 g, 36 mmol) was added portionwise di-t-butyldicarbonate (7.1 g, 33 mmol). The reaction mixture was stirred at room temperature for 18 h, quenched with ice water and extracted with chloroform. The organic layer was dried over sodium sulfate, filtered, concentrated and chromatographed on a silica-gel column with 20:80 ethyl acetate:hexane. Piperidine 1,3dicarboxylic acid 1-tert-butyl ester-3-ethyl ester was isolated as a waxy solid. Yield 6.86 g (82%). MS (ES): m/z 258.2 (M+H)+.

reactant | ethyl nipecotate | 33 mmol, 5.1 g | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | triethylamine | 36 mmol, 3.7 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 33 mmol, 7.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
product | Piperidine 1,3dicarboxylic acid 1-tert-butyl ester-3-ethyl ester | C(C)OC(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C13H23NO4
